US09447090B2
To 301 mg of 8-[(2,6-difluorobenzyl)oxy]-N-[2,2-dimethyl-5-(3-methylphenyl)-1,3-dioxan-5-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide were added 3 ml of dioxane, 3 ml of methanol, and 6 ml of 1 M hydrochloric acid, followed by stirring for 14 hours. To the reaction mixture were added a saturated aqueous sodium hydrogen carbonate solution, water, and ethyl acetate under ice-cooling to carry out a layer separation operation. The organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution and saturated brine in this order, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography. To the obtained purified product were added hexane and ethyl acetate, and the insoluble material was collected by filtration and dried to obtain 172 mg of 8-[(2,6-difluorobenzyl)oxy]-N-[1,3-dihydroxy-2-(3-methylphenyl)propan-2-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | 8-[(2,6-difluorobenzyl)oxy]-N-[2,2-dimethyl-5-(3-methylphenyl)-1,3-dioxan-5-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 301 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC3(COC(OC3)(C)C)C3=CC(=CC=C3)C)C(=CC=C1)F | C29H29F2N3O4
reactant | dioxane | 3 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 1 M, 6 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | methanol | 3 ml | CO | CH4O
product | 8-[(2,6-difluorobenzyl)oxy]-N-[1,3-dihydroxy-2-(3-methylphenyl)propan-2-yl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 172 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC(CO)(CO)C3=CC(=CC=C3)C)C(=CC=C1)F | C26H25F2N3O4
